.INCLUDE 45nm_HP.pm

*****OPTIONS*******************************************
.OPTIONS GMIN=1e-20 
.option POST
.options AUTOSTOP
*.options INGOLD=2     DCON=1
*.options GSHUNT=1e-15
*.options RMIN=1e-15
.options ABSTOL=1e-18 
*.options RELTOL=1e-20  
*.options RELVDC=1e-2 
*.options NUMDGT=4     PIVOT=1e-13
*.option MEASDGT=6

****Parameters**********
.PARAM Lmin=45n
.PARAM Wmin=45n
.PARAM XX=1

****Net-list*************	
Mp1	nodez	nodea	node1 	node1 	pmos W={2*XX*Wmin} L={Lmin}	

Mn1	nodez	nodea	0 	0 	nmos W={2*XX*Wmin} L={Lmin}	


****Supply**************
Vdd node1 0 1.1V

****Input***************
VinA nodea 0

.TEMP 25

.CONTROL
echo "Inverter" > Inverter.txt
Foreach Vddbasic 1.1 
	echo Vddbasic = $Vddbasic
		alter Vdd = $Vddbasic

foreach input 0 $Vddbasic
	alter VinA = $input
			echo DC Analysis at 27C
		           dc TEMP 25 50 60
print V(node1) V(nodea) V(nodez) (-V(node1)*I(Vdd)) ((-V(node1)*I(Vdd))+(-V(nodea)*I(Vina))) >> Inverter.txt

	end
end

.ENDC
.END
